US08017602B2
Step ii) 1-(4-(Benzyloxy)-2-hydroxy-3-nitrophenyl)ethanone
Lithium tert-butoxide (4.06 g) was added to a stirred solution of 1-(2,4-dihydroxy-3-nitrophenyl)ethanone (10 g) in DMF (100 mL), under nitrogen, whilst maintaining the internal temperature below 30° C. After stirring for a further 10 min at ambient temperature, benzyl bromide (6.03 mL) was added and the mixture stirred for a further 20 h. Further benzyl bromide (3 mL) was added and the mixture stirred for 24 h. The reaction was quenched with water (300 mL), 1M aqueous sodium hydroxide (50 mL) was added and the mixture was washed with ether (2×300 mL), filtering through Celite to aid separation. The basic solution was cooled in ice/water, acidified with ice cold 2M hydrochloric acid (200 mL) and the resulting precipitate filtered off, washed with water and dried to afford a light brown solid. The solid was slurried with ethanol (100 mL) for 1 h and the solid filtered off, washed with cold ethanol (20 mL), and dried under vacuum at 40° C. to afford the subtitled compound as a light brown solid (6.8 g). 1H NMR (400 MHz, DMSO-d6) δ 13.04 (s, 1H), 8.14 (d, J=9.2 Hz, 1H), 7.45-7.32 (m, 5H), 7.01 (d, J=9.2 Hz, 1H), 5.42 (s, 2H), 2.64 (s, 3H).

reactant | Lithium tert-butoxide | 4.06 g | CC(C)([O-])C.[Li+]
reactant | 1-(2,4-dihydroxy-3-nitrophenyl)ethanone | 10 g | OC1=C(C=CC(=C1[N+](=O)[O-])O)C(C)=O | C8H7NO5
reactant | benzyl bromide | 6.03 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 3 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(4-(Benzyloxy)-2-hydroxy-3-nitrophenyl)ethanone | 6.8 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C(C)=O)O)[N+](=O)[O-] | C15H13NO5
